US04000154
cis-2-Azidomethyl-3-benzyloxycarbonylamino-4-oxoazetidine is treated with zinc dust in 50% aqueous acetic acid as described in Preparation 7. Reaction of the crude reduction product with benzyl glyoxalate in methylene dichloride as described in the procedure of Example 1 gives N-(cis-3-benzyloxycarbonylamino-4-oxo-2-azetidinyl-methyl)iminoacetic acid benzyl ester which, when treated with acetyl chloride according to the procedure of Example 1, gives 3-acetyl-6β-benzyloxycarbonylamino-7-oxo-1,3-diazabicyclo[3.2.0]heptane-2-carboxylic acid benzyl ester.

reactant | cis-2-Azidomethyl-3-benzyloxycarbonylamino-4-oxoazetidine | N(=[N+]=[N-])C[C@@H]1NC([C@@H]1NC(=O)OCC1=CC=CC=C1)=O | C12H13N5O3
reactant | benzyl glyoxalate | C(C=O)(=O)OCC1=CC=CC=C1 | C9H8O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
catalyst | zinc | [Zn] | Zn
product | N-(cis-3-benzyloxycarbonylamino-4-oxo-2-azetidinyl-methyl)iminoacetic acid benzyl ester | C(C1=CC=CC=C1)OC(C=NC[C@@H]1NC([C@@H]1NC(=O)OCC1=CC=CC=C1)=O)=O | C21H21N3O5
